US04732912
A solution of dimethyl-t-butylsilyl chloride (18 g.) in tetrahydrofuran (50 ml.) was added dropwise to a stirred solution of 8-bromooctanol (20 g.) and imidazole (14.2 g.) in tetrahydrofuran (100 ml.) and the mixture was stirred at laboratory temperature for 3 hours, diluted with diethyl ether (200 ml.) and filtered. The filtrate was evaporated to dryness and the residue was purified by chromatography on a silica gel column using petroleum ether (b.p. 60°-80° C.) as eluant. A solution of the 8-(dimethyl-t-butylsilyloxy)octyl bromide thus obtained (6.46 g.) in dimethyl sulphoxide (2 ml.) was added to a stirred suspension of lithium acetylide-ethylenediamine complex (2.02 g.) in dimethylsulphoxide (30 ml ) which was cooled to 10° C.; and the mixture was stirred for 18 hours and then poured into ice-water (150 ml.). The mixture was extracted three times with petroleum ether (b.p. 60°-80° C.; 30 ml. each time) and the combined extracts were washed with water (10 ml.), dried and evaporated to dryness. The residue was purified by chromatography on a silica gel column using a 5:1 v/v mixture of cyclohexane and diethyl ether as eluant. There was thus obtained 10-(dimethyl-t-butylsilyloxy)dec-1-yne.

reactant | dimethyl-t-butylsilyl chloride | 18 g | C[Si](C(C)(C)C)(C)Cl | C6H15ClSi
reactant | 8-bromooctanol | 20 g | BrCCCCCCCCO | C8H17BrO
reactant | imidazole | 14.2 g | N1C=NC=C1 | C3H4N2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 8-(dimethyl-t-butylsilyloxy)octyl bromide | C[Si](OCCCCCCCCBr)(C(C)(C)C)C | C14H31BrOSi
